US05318966
0.98 g (0.02593 mol) of lithium aluminum hydride was suspended in 50 ml of THF under argon. A solution of 3.61 g (0.01297 mol) of rac-cis-1,3,3a,4,5,9b-hexahydro-6-methoxy-3-(3-methyl-butyl)-2H-benzo[e]indol-2-one in 50 ml of THF was added dropwise thereto and the mixture was boiled under reflux for 2 hours. 1.0 ml of water, 1.0 ml of a 4N aqueous NaOH solution and 3.0 ml of water were cautiously added dropwise thereto in succession, whereupon the mixture was boiled at reflux until a complete white precipitate had resulted. After the addition of dry Na2SO4, filtration and concentration there was obtained an oil which was chromatographed over silica gel with cyclohexane/ethyl acetate 1:1. There were obtained 3.23 g (94%) of oily rac-cis-2,3,3a,4,5,9b-hexahydro-6-methoxy-3-(3-methyl-butyl)-1H-benzo[e]indole.

reactant | lithium aluminum hydride | 0.02593 mol, 0.98 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | rac-cis-1,3,3a,4,5,9b-hexahydro-6-methoxy-3-(3-methyl-butyl)-2H-benzo[e]indol-2-one | 0.01297 mol, 3.61 g | COC1=CC=CC=2[C@H]3CC(N([C@H]3CCC21)CCC(C)C)=O | C18H25NO2
reactant | NaOH | 4N | [OH-].[Na+]
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | 3.0 ml | O | H2O
solvent | water | 1.0 ml | O | H2O
product | rac-cis-2,3,3a,4,5,9b-hexahydro-6-methoxy-3-(3-methyl-butyl)-1H-benzo[e]indole | 3.23 g, 94% | COC1=CC=CC=2[C@H]3CCN([C@H]3CCC21)CCC(C)C | C18H27NO
